US06355653B1
b) 7-(5-Ethyl-pyridin-2-yl)-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, MS m/e (%):317 (M+H+,100), was prepared in accordance with the general method of example 1 from 2-(5-benzenesulfonylmethyl-2H-[1,2,4]triazol-3-yl)-pyridine and (E)/(Z)-3-(5-ethyl-pyridin-2-yl)-acrylonitrile.

reactant | 2-(5-benzenesulfonylmethyl-2H-[1,2,4]triazol-3-yl)-pyridine | C1(=CC=CC=C1)S(=O)(=O)CC=1N=C(NN1)C1=NC=CC=C1 | C14H12N4O2S
reactant | (Z)-3-(5-ethyl-pyridin-2-yl)-acrylonitrile | C(C)C=1C=CC(=NC1)\C=C/C#N | C10H10N2
product | 7-(5-Ethyl-pyridin-2-yl)-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | C(C)C=1C=CC(=NC1)C1=CC=2N(C(=C1)N)N=C(N2)C2=NC=CC=C2 | C18H16N6
